US05310743
h) (2R,4RS)-N-[2-Benzyl-1-(3,5-dimethylbenzoyl)-4-piperidyl]trifluoroacetamide
710 mg of solid sodium bicarbonate and 712 mg of 3,5-dimethylbenzoyl chloride are added to a stirred mixture of 1.39 g (3.44 mmol) of (2R,4RS)-N-(2-benzyl-4-piperidyl)trifluoroacetamide trifluoroacetate and 10 ml of toluene/water (1:1) cooled in ice-water. The reaction mixture is then allowed to warm to room temperature, subsequently stirred for 2 hours and partitioned between toluene and 1N sodium bicarbonate solution. The organic phases are washed with water, dried over magnesium sulfate and evaporated to dryness. The colourless oil is chromatographed on silica gel with ethyl acetate/hexane 1:2, resulting in the title compound. This is used further without further purification.

reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 3,5-dimethylbenzoyl chloride | 712 mg | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
reactant | (2R,4RS)-N-(2-benzyl-4-piperidyl)trifluoroacetamide trifluoroacetate | 3.44 mmol, 1.39 g | FC(C(=O)O)(F)F.C(C1=CC=CC=C1)[C@H]1NCCC(C1)NC(C(F)(F)F)=O
solvent | toluene water | 10 ml | C1(=CC=CC=C1)C.O
product | (2R,4RS)-N-[2-Benzyl-1-(3,5-dimethylbenzoyl)-4-piperidyl]trifluoroacetamide | C(C1=CC=CC=C1)[C@H]1N(CCC(C1)NC(C(F)(F)F)=O)C(C1=CC(=CC(=C1)C)C)=O | C23H25F3N2O2
